US06559145B2
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-4H-chromene-3-carboxamide [AN.4, Z=CH2OH].
A mixture of 6-bromo-3-formylchromone (1.2 g) and N-bromosuccinimide (0.82 g) in carbon tetrachloride (30 mL) is irradiated with a sun lamp (625 watt) for 20 minutes. The cooled reaction is then treated with 4-chlorobenzylamine (2 mL) and stirred 30 minutes. The resulting amide intermediate is purified by chromatography on silica gel 60 in ethyl acetate/CH2Cl2 mixtures and then recrystallized from CH2Cl2/hexane. (54%, M.p. 182-183° C.) A portion of the resulting amide (0.2 g) in dioxane is combined under argon with bis(benzonitrile) palladium (II) chloride (6 mg), copper(I) iodide (4 mg), a 0.5 M solution of tri-t-butylphosphine in cyclohexane (0.064 mL), diisopropylamine (0.085 mL), and propargyl alcohol (0.037 mL). The reaction is stirred at room temperature overnight. The mixture is diluted with ethyl acetate and filtering. The crude product is purified by column chromatography on silica gel 60 in ethyl acetate/CH2Cl2 mixtures and is then crystallized from methanol/CH2Cl2/ethyl acetate to afford the title compound (23%). Physical characteristics: m.p. 185-186° C. 1H NMR (CDCl3) δ 1.95, 4.52,4.62, 7.30, 7.50, 7.75, 8.27, 8.98, 9.63; MS (ESI) [M+Na]+ 390.

reactant | 6-bromo-3-formylchromone | 1.2 g | BrC=1C=C2C(C(=COC2=CC1)C=O)=O | C10H5BrO3
reactant | N-bromosuccinimide | 0.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-chlorobenzylamine | 2 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-4-oxo-4H-chromene-3-carboxamide | 23% | ClC1=CC=C(CNC(=O)C2=COC3=CC=C(C=C3C2=O)C#CCO)C=C1 | C20H14ClNO4
